US06608071B2
111a) 5-Chloro-3-trifluoromethyl-nitrobenzene
(see also: EP 0 516 297 A1) 56.7 ml of 96% sulfuric acid are added dropwise over a period of 30 minutes to a brown solution of 90 g (374 mmol) of 4-amino-3-chloro-5-nitro-benzotrifluoride (Maybridge; Tintagel/England) in 500 ml of ethanol (exothermic). After heating to 75° C., 64.53 g (935 mmol) of sodium nitrite are added in portions over a period of one hour (evolution of gas). The mixture is stirred for 2.5 hours at 75° C. and then cooled to room temperature. The reaction mixture is poured onto 1.5 liters of ice-water and extracted four times with ether. Washing the organic phases with 0.1 N HCl, saturated NaHCO3solution and brine, drying (Na2SO4) and concentration by evaporation yield a brown oil. Column chromatography (SiO2; hexane) yields the title compound in the form of an oil: 1H-NMR (DMSO-d6) 8.62 (m, 1H), 8.46 (m, 2H), MS 225 (M)+, 179 (M—NO2)+.

reactant | sulfuric acid | 56.7 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-amino-3-chloro-5-nitro-benzotrifluoride | 374 mmol, 90 g | NC1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)Cl | C7H4ClF3N2O2
reactant | sodium nitrite | 935 mmol, 64.53 g | N(=O)[O-].[Na+]
reactant | hexane | CCCCCC | C6H14
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 5-Chloro-3-trifluoromethyl-nitrobenzene | ClC=1C=C(C=C(C1)[N+](=O)[O-])C(F)(F)F | C7H3ClF3NO2
